US07696215B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 4, 4-methyl-3-[6-(4-(2-methoxyethyl)piperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid was reacted with 3-aminoisoxazole to give 3-[6-(4-(2-methoxyethyl)piperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide; NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 2.58 (m, 6H), 3.26 (m, 7H), 3.47 (t, 2H), 7.05 (s, 1H), 7.50 (s, 1H), 7.66 (m, 3H), 8.10 (m, 2H), 8.13 (s, 1H), 8.87 (s, 1H), 11.48 (s, 1H); Mass Spectrum: M+H+ 489.

reactant | 4-methyl-3-[6-(4-(2-methoxyethyl)piperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]benzoic acid | CC1=C(C=C(C(=O)O)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)CCOC | C23H26N4O4
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | 3-[6-(4-(2-methoxyethyl)piperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | COCCN1CCN(CC1)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O | C26H28N6O4
